US08114887B2
To a solution of 55 mg (0.156 mmol) 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione in 2 mL dry toluene was added 36 mg (0.187 mmol)p-toluenesulfonic acid monohydrate and 0.030 mL (0.312 mmol) 4-fluoroaniline. The reaction mixture was refluxed for 24 hrs. The solvent was then removed by concentration in vacuum. The residue was purified by preparative HPLC (5→95% CH3CN/H2O over 30 min, 0.05% added TFA, C18 PRO YMC 20×150 mm) to afford 8-benzyl-1-(3-fluorophenyl)-4-[(4-fluorophenyl)amino]-1,8-diazaspiro[4.5]dec-3-en-2-one as a white solid. 1H NMR (CD3OD, 400 MHz): δ 7.50-7.20 (m, 7H), 7.20-6.98 (m 6H), 5.24 (s, 1H), 3.60 (s, 2H), 2.99-2.80 (m, 2H), 2.36-2.43 (m, 2H), 2.24-1.98 (m, 2H), 2.10 (m, 1H), 1.00 (m, 2H). High resolution mass spec (FT/ICR): calc M+H=446.2039 found 446.2035.

reactant | 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione | 0.156 mmol, 55 mg | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC(=CC=C2)F)=O)=O)CC1 | C21H21FN2O2
reactant | p-toluenesulfonic acid monohydrate | 0.187 mmol, 36 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-fluoroaniline | 0.312 mmol, 0.030 mL | FC1=CC=C(N)C=C1 | C6H6FN
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 8-benzyl-1-(3-fluorophenyl)-4-[(4-fluorophenyl)amino]-1,8-diazaspiro[4.5]dec-3-en-2-one | C(C1=CC=CC=C1)N1CCC2(C(=CC(N2C2=CC(=CC=C2)F)=O)NC2=CC=C(C=C2)F)CC1 | C27H25F2N3O
